US07807709B2
b. 4-tert-Butyl-3-hydroxy-benzoic acid methyl ester
To a solution of borontribromide (3.38 mL, 35.1 mmol) in CH2Cl2 (35 mL), cooled to −60° C., is added under an argon atmosphere a solution of 4-tert-butyl-3-methoxy-benzoic acid methyl ester (2.60 g, 11.7 mmol) in CH2Cl2 (65 mL). The reaction is warmed to room temperature and stirring is continued overnight. Another aliquot of BBr3 (1.13 mL, 11.7 mmol) is added, and the mixture is stirred for 6 hrs at ambient temperature before quenching by careful addition of water. The aqueous layer is extracted with CH2Cl2, the combined organics are washed with 1N aqueous NaOH, dried (Na2SO4) and concentrated. Purification by flash chromatography on silica gel (eluents: CH2Cl2 100%, then CH2Cl2/acetone 97:3) gives the title compound as yellowish solid. MS: 209.0 [M+H]+. tR (HPLC, Nucleosil C18HD column, 5-100% CH3CN/H2O/6 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 1 mL/min): 5.37 min. 1H-NMR (CDCl3): δ 1.46 (s, 9H), 3.94 (s, 3H), 5.60 (s, 1H), 7.36 (dd, 1H), 7.50 (d,1H), 7.57 (dd,1H) ppm.

reactant | 4-tert-butyl-3-methoxy-benzoic acid methyl ester | 11.7 mmol, 2.60 g | COC(C1=CC(=C(C=C1)C(C)(C)C)OC)=O | C13H18O3
reactant | BBr3 | 11.7 mmol, 1.13 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 65 mL | C(Cl)Cl | CH2Cl2
product | 4-tert-Butyl-3-hydroxy-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)C(C)(C)C)O)=O | C12H16O3
